US04983723
To 10 ml of an anhydrous THF suspension containing 383 mg of lithium aluminum hydride was slowly added 10 ml of an anhydrous THF solution containing 1.0 g of 1-(1,2,4-trihydroxy-2,6,6-trimethylcyclohexyl)-oct-1-yn-3-ol over 10 minutes under ice-cooling in a nitrogen atmosphere. After the addition, the mixture was placed under refluxing conditions and stirred for 15 hours. After completion of the reaction, the reaction mixture was cooled, and 0.4 ml of water, 0.4 ml of a 15% sodium hydroxide aqueous solution, and 1.2 ml of water were carefully added thereto in this order, followed by vigorously stirring for 20 minutes. Any insoluble matter was removed by filtration with suction, and the filtrate was concentrated under reduced pressure. The resulting solid was purified by silica gel column chromatography to obtain 596 mg (yield: 63%) of 1-(2,4-dihydroxy-2,6,6-trimethylcyclohexylidene)oct-1-en-3-ol.

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | lithium aluminum hydride | 383 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | 1-(1,2,4-trihydroxy-2,6,6-trimethylcyclohexyl)-oct-1-yn-3-ol | 1.0 g | OC1(C(CC(CC1(C)C)O)(C)O)C#CC(CCCCC)O | C17H30O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1.2 ml | O | H2O
solvent | water | 0.4 ml | O | H2O
product | 1-(2,4-dihydroxy-2,6,6-trimethylcyclohexylidene)oct-1-en-3-ol | 596 mg, yield: 63% | OC1(C(C(CC(C1)O)(C)C)=C=CC(CCCCC)O)C | C17H30O3
